US07807720B2
[3-(4-Fluoro-phenyl)-propyl]-methyl-carbamic acid tert-butyl ester (B6)
To a mixture of [3-(4-fluoro-phenyl)-propyl]-carbamic acid tert-butyl ester (0.390 g, 1.540 mmol) and NaH (0.092 g, 2.310 mmol, 60% in mineral oil) in 10 mL of THF, was added via a syringe MeI (0.19 mL, 3.080 mmol). After stirring overnight at room temperature under N2, the reaction was quenched with NH4Cl solution (40 mL) and the resulting mixture extracted with dichloromethane (40 mL×3). The combined organic extracts were dried, filtered, and concentrated under reduced pressure. The product was isolated using Flash column chromatography (silica gel) eluting with 0-30% ethyl acetate/hexanes to give the title compound as colorless oil (0.417 g, >99% yield). GC-MS: tR=8.6 min; m/z 267 (M+).

reactant | [3-(4-fluoro-phenyl)-propyl]-carbamic acid tert-butyl ester | 1.540 mmol, 0.390 g | C(C)(C)(C)OC(NCCCC1=CC=C(C=C1)F)=O | C14H20FNO2
reactant | NaH | 2.310 mmol, 0.092 g | [H-].[Na+]
reactant | MeI | 3.080 mmol, 0.19 mL | CI | CH3I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | [3-(4-Fluoro-phenyl)-propyl]-methyl-carbamic acid tert-butyl ester | 0.417 g, >99% yield | C(C)(C)(C)OC(N(C)CCCC1=CC=C(C=C1)F)=O | C15H22FNO2
